US09353096B2
To a solution of 2-(4-fluorophenyl)morpholine oxalate (50 mg, 184 μmol) and triethylamine (128 μL, 922 μmole) in 2.5 mL of acetonitrile was added (S)-2-(trifluoromethyl)oxirane (82.6 mg, 737 μmol) at room temperature. The mixture was stirred at this temperature for 4 days. The solution was purified by reverse phase column chromatography (30-100% acetonitrile in water). The desired fractions were pooled and lyophilized to give (2S)-1,1,1-trifluoro-3-(2-(4-fluorophenyl)morpholino)propan-2-ol (39 mg, 73%). Used as is in the next step.

reactant | 2-(4-fluorophenyl)morpholine oxalate | 184 μmol, 50 mg | C(C(=O)O)(=O)O.FC1=CC=C(C=C1)C1CNCCO1
reactant | triethylamine | 922 μmole, 128 μL | C(C)N(CC)CC | C6H15N
reactant | (S)-2-(trifluoromethyl)oxirane | 737 μmol, 82.6 mg | FC([C@H]1OC1)(F)F | C3H3F3O
solvent | acetonitrile | 2.5 mL | C(C)#N | C2H3N
product | (2S)-1,1,1-trifluoro-3-(2-(4-fluorophenyl)morpholino)propan-2-ol | 39 mg, 73% | FC([C@H](CN1CC(OCC1)C1=CC=C(C=C1)F)O)(F)F | C13H15F4NO2
